US07829707B2
(c) 1-[(4,5-Dimethyl-1H-benzimidazol-2-yl)methyl]-2-thioxo-1,2,3,5-tetrahydro-pyrrolo[3,2-d]pyrimidin-4-one
Ethyl 3-{[(4,5-dimethyl-1H-benzimidazol-2-yl)methyl]amino}-1H-pyrrole-2-carboxylate (0.043 g, 0.14 mmol) was dissolved in CH2Cl2 (1.5 mL) and benzoyl isothiocyanate (0.026 g, 0.16 mmol) was added. After stirring at r.t. for 1 h the solvent was removed in vacuo. The residue was dissolved in ammonia (7N in methanol) and heated to 70° C. for 2 h in a sealed vessel. The solvent was removed in vacuo and the residue was purified by preparative HPLC, obtaining a white solid, 0.008 g (18%) of the title compound, as a tautomeric mixture (1:1).

reactant | Ethyl 3-{[(4,5-dimethyl-1H-benzimidazol-2-yl)methyl]amino}-1H-pyrrole-2-carboxylate | 0.14 mmol, 0.043 g | CC1=C(C=CC=2NC(=NC21)CNC2=C(NC=C2)C(=O)OCC)C | C17H20N4O2
reactant | benzoyl isothiocyanate | 0.16 mmol, 0.026 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | CH2Cl2 | 1.5 mL | C(Cl)Cl | CH2Cl2
product | 1-[(4,5-Dimethyl-1H-benzimidazol-2-yl)methyl]-2-thioxo-1,2,3,5-tetrahydro-pyrrolo[3,2-d]pyrimidin-4-one | 0.008 g, 18% | CC1=C(C=CC=2NC(=NC21)CN2C(NC(C1=C2C=CN1)=O)=S)C | C16H15N5OS
